US07834039B2
3-bromo-4-isopropoxybenzonitrile (0.68 g, 2.83 mmol) and hydroxylamine (0.208 ml, 3.12 mmol) were combined in EtOH (20 ml). The reaction mixture was heated at 65° C. for 16 hr. The reaction mixture was concentrated to afford (Z)-3-bromo-N′-hydroxy-4-isopropoxybenzimidamide (0.76 g, 2.78 mmol, 98% yield) as pale yellow solid. LC/MS (Table 1, Method a) Rt=2.89 min.; MS m/z: 275.00 (M+H)+.

reactant | 3-bromo-4-isopropoxybenzonitrile | 2.83 mmol, 0.68 g | BrC=1C=C(C#N)C=CC1OC(C)C | C10H10BrNO
reactant | hydroxylamine | 3.12 mmol, 0.208 ml | NO | H3NO
solvent | EtOH | 20 ml | CCO | C2H6O
product | (Z)-3-bromo-N′-hydroxy-4-isopropoxybenzimidamide | 2.78 mmol, 0.76 g, 98% yield | BrC=1C=C(/C(/N)=N/O)C=CC1OC(C)C | C10H13BrN2O2
